US08183289B2
To 2-(3-(aminomethyl)-4-hydroxyphenyl)acetic acid (3.9 g, 21.5 mmol) was added Boc2O (5.40 g, 24.8 mmol) in 30 mL of dioxane. After stirring for 4 hours, the reaction was diluted with ethyl acetate and 1N HCl. The organic layer was dried over MgSO4 and concentrated. The solid was taken up in minimal methylene chloride, filtered and rinsed with methylene chloride. The filtrate was concentrated to yield 3.0 g of 2-(3-((tert-butoxycarbonyl)aminomethyl)-4-hydroxyphenyl)acetic acid as a white foam.

reactant | 2-(3-(aminomethyl)-4-hydroxyphenyl)acetic acid | 21.5 mmol, 3.9 g | NCC=1C=C(C=CC1O)CC(=O)O | C9H11NO3
reactant | Boc2O | 24.8 mmol, 5.40 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl | 1N | Cl | ClH
product | 2-(3-((tert-butoxycarbonyl)aminomethyl)-4-hydroxyphenyl)acetic acid | 3.0 g | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1O)CC(=O)O | C14H19NO5
